US07144899B2
Step B: (2-Pyrazin-2-ylphenyl)methanol
To a stirred suspension of 2-pyrazin-2-ylbenzaldehyde (9.9 mmol from the previous step) in absolute MeOH (100 mL) at 0° C. was added sodium borohydride (420 mg, 11.1 mmol) in portions. The mixture was allowed to warm to room temperature and stirred under N2 atmosphere for 2 h. The solvent was removed in vacuo and the residue was treated with saturated aqueous NH4Cl. The mixture was extracted twice with EtOAc and the combined organic extracts were washed successively with H2O and brine, dried (MgSO4), filtered and concentrated to give a brown oil. Silica gel chromatography (70% EtOAc-hexanes) afforded the title compound as a pale red-brown oil. 1H NMR (400 MHz, CDCl3): δ 8.96 (s, 1 H), 8.65–8.61 (m, 2 H), 7.62–7.46 (m, 4 H), 5.18 (t, J=7.2 Hz, 1 H), 4.49 (d, J=7.2 Hz, 2 H). LCMS (M+H): 186.9.

reactant | 2-pyrazin-2-ylbenzaldehyde | N1=C(C=NC=C1)C1=C(C=O)C=CC=C1 | C11H8N2O
reactant | sodium borohydride | 11.1 mmol, 420 mg | [BH4-].[Na+]
solvent | MeOH | 100 mL | CO | CH4O
product | (2-Pyrazin-2-ylphenyl)methanol | N1=C(C=NC=C1)C1=C(C=CC=C1)CO | C11H10N2O
